US06949549B2
c) 6-(2-Methyl-1,2,4-triazol-5-yl)methyloxy-3-(isoxazol-3-yl)imidazo[5,1-a]phthalazine
The title compound was prepared from 6-chloro-3-(isoxazol-3-yl)-imidazo[5,1-a]phthalazine (Part b) and (2-methyl-1,2,4-triazol-5-yl)methanol as described in Example 1, Part c. 1H NMR (360 MHz, CDCl3) δ 3.96 (s, 3H), 5.7 (s, 2H), 7.40 (s, 1H), 7.52 (t, J=8 Hz, 1H), 7.76 (t, J=8 Hz, 1H), 7.89 (s, 1H), 8.0 (d, J=8 Hz, 1H), 8.17 (d, J=8 Hz, 1H), 8.56 (s, 1H). MS (ES+) m/e 348 [MH]+.

reactant | 6-chloro-3-(isoxazol-3-yl)-imidazo[5,1-a]phthalazine | ClC1=NN2C(C3=CC=CC=C13)=CN=C2C2=NOC=C2 | C13H7ClN4O
reactant | (2-methyl-1,2,4-triazol-5-yl)methanol | CN1N=C(N=C1)CO | C4H7N3O
product | 6-(2-Methyl-1,2,4-triazol-5-yl)methyloxy-3-(isoxazol-3-yl)imidazo[5,1-a]phthalazine | CN1N=C(N=C1)COC1=NN2C(C3=CC=CC=C13)=CN=C2C2=NOC=C2 | C17H13N7O2
